US04360468
reacting α-bromocyclododecanone with sodium malonic acid dimethyl ester in methanol at from about 10° to 40° C. to form 2-(2-oxocyclododec-1-yl)-malonic acid dimethyl ester;

reactant | α-bromocyclododecanone | C1CCCCCC(=O)C(CCCC1)Br | C12H21BrO
reactant | sodium malonic acid dimethyl ester | COC(CC(=O)OC)=O.[Na]
solvent | methanol | CO | CH4O
product | 2-(2-oxocyclododec-1-yl)-malonic acid dimethyl ester | COC(C(C(=O)OC)C1C(CCCCCCCCCC1)=O)=O | C17H28O5
